US08198441B2
Methyl 5-acetyl-2-methoxybenzoate (7)
Methyl 5-acetyl-2-hydroxybenzoate (95.3 g, 490.6 mmol) was added to DMF (381 mL) and potassium carbonate (82.2 g, 588.8 mmol) at RT under an atmosphere of nitrogen. To the resulting suspension was added methyl iodide (90.5 g, 637.8 mmol) whilst maintaining good agitation. After stirring at RT for 30 minutes, the crude reaction mixture was analysed by GC demonstrating complete reaction. Water (380 mL) was added followed by further water (380 mL) and the resulting white solid filtered off to afford 82.5 g of the desired, water wet product (7).

reactant | Methyl 5-acetyl-2-hydroxybenzoate | 490.6 mmol, 95.3 g | C(C)(=O)C=1C=CC(=C(C(=O)OC)C1)O | C10H10O4
reactant | DMF | 381 mL | CN(C)C=O | C3H7NO
reactant | potassium carbonate | 588.8 mmol, 82.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 637.8 mmol, 90.5 g | CI | CH3I
solvent | water | O | H2O
solvent | water | 380 mL | O | H2O
solvent | Water | 380 mL | O | H2O
product | Methyl 5-acetyl-2-methoxybenzoate | C(C)(=O)C=1C=CC(=C(C(=O)OC)C1)OC | C11H12O4
